US06833274B2
5-Aminoboronophthalide.
5-Nitroboronophthalide (2.72 g, 15.2 mmol) and 10% palladium on carbon (911 mg) are suspended in 30 mL of anhydrous tetrahydrofuran. Ammonium formate (4.41 g, 70 mmol) is added and the mixture is stirred at 50° C., under nitrogen for 3 hr. After cooling to room temperature, the catalyst is removed by filtration through a pad of Celite, which is then washed with ˜30 mL of methanol. Concentration in vacuo gives a light brown oil that is purified by dissolution in ethyl acetate and filtration through a plug of silica. Recrystallization from ethanol and water gives a light yellow crystalline solid (1.12 g, 7.52 mmol, 49.5%) with a m.p. of 160-161° C.

reactant | 5-Nitroboronophthalide | 15.2 mmol, 2.72 g | [N+](=O)([O-])C=1C=C2C(OC(=O)C2=CC1)B(O)O | C8H6BNO6
reactant | Ammonium formate | 70 mmol, 4.41 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 911 mg | [Pd] | Pd
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 5-Aminoboronophthalide | 7.52 mmol, 1.12 g, 49.5% | NC=1C=C2C(OC(=O)C2=CC1)B(O)O | C8H8BNO4
